US06376491B1
To a cooled (0° C.) suspension of LiAlH4 (17 mg) in THF (1 ml) was added a solution of 3-methyl-4-(1-pyridin-3-ylmethyl-piperidin-4-yloxy)-benzofuran-2-carboxylic acid ethyl ester (44 mg), the compound in Example 108, in THF (0.5 ml) and the resulting suspension was stirred at 0° C. for one hour. To the suspension was dropwise added a solution of KF (122 mg) in H2O (100 μl) at 0° C. over five minutes. The suspension was stirred at room temperature for 30 minutes and diluted with ethyl acetate, dried over anhydrous sodium sulfate and evaporated to dryness. The residue was purified by preparative thin layer chromatography (using dichloromethane:MeOH=10:1 as a developing solvent) to give [3-methyl-4-(1-pyridin-3-ylmethyl-piperidin-4-yloxy)-benzofuran-2-yl]-methanol (33 mg) as a colorless oil. FAB-MS: m/z 353 (MH+); 1H-NMR (CDCl3): δ 2.00 (4H, m), 2.38 (3H, s), 2.42 (2H, m), 2.68 (2H, m), 3.55 (2H, s), 4.51 (1H, m), 4.71 (2H, s), 6.59 (1H, d, J=8 Hz), 7.00 (1H, d, J=8 Hz), 7.13 (1H, t, J=8 Hz), 7.26 (1H, dd, J1=8 Hz, J2=5 Hz), 7.68 (1H, dt, J1=8 Hz, J2=2 Hz), 8.51 (1H, dd, J1=5 Hz, J2=2 Hz), 8.54 (1H, d, J=2 Hz).

reactant | LiAlH4 | 17 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-methyl-4-(1-pyridin-3-ylmethyl-piperidin-4-yloxy)-benzofuran-2-carboxylic acid ethyl ester | 44 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OC2CCN(CC2)CC=2C=NC=CC2 | C23H26N2O4
reactant | KF | 122 mg | [F-].[K+]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | H2O | 100 μl | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [3-methyl-4-(1-pyridin-3-ylmethyl-piperidin-4-yloxy)-benzofuran-2-yl]-methanol | 33 mg | CC1=C(OC2=C1C(=CC=C2)OC2CCN(CC2)CC=2C=NC=CC2)CO | C21H24N2O3
